US07714010B2
c) 5′-Amino-1′-pentyl-spiro[cyclopropane-1,3′-indoline]-2′-one
5′-Nitro-1′-pentyl-spiro[cyclopropane-1,3′-indoline]-2′-one (29.3 g) is dissolved in EtOAc (266 ml) and SnCl2.2 H2O (96.0 g; 427 mmol) is added. The reaction mixture is refluxed overnight, cooled and filtered over Al2O3. After an aqueous work-up of the filtrate the compound (2.9 g) is obtained.

reactant | 5′-Nitro-1′-pentyl-spiro[cyclopropane-1,3′-indoline]-2′-one | 29.3 g | [N+](=O)([O-])C=1C=C2C3(C(N(C2=CC1)CCCCC)=O)CC3 | C15H18N2O3
reactant | H2O | 427 mmol, 96.0 g | O | H2O
solvent | EtOAc | 266 ml | CCOC(=O)C | C4H8O2
solvent | SnCl2 | Cl[Sn]Cl
product | 5′-Amino-1′-pentyl-spiro[cyclopropane-1,3′-indoline]-2′-one | 2.9 g | NC=1C=C2C3(C(N(C2=CC1)CCCCC)=O)CC3 | C15H20N2O
